US06313094B1
[Process 3] Boc-Phe-Ser-OH
In a 10 ml solution of DMF containing 500 mg (1.38 mmol) of Boc-Phe-OSu was added 5 ml of an aqueous solution of H-Ser-OH.Et3N [preparation from 290 mg (2.76 mmol) of H-Ser-OH and 384 μl (2.76 mmol) of Et3N] and the mixture was stirred for 14 hr. The reaction mixture was evaporated and the residue was dissolved in ethyl acetate and washed with 1N-HCl and saturated sodium chloride aqueous solution, successively, together with salting out. The resultant solution was dried over anhydrous sodium sulfate, evaporated under reduced pressure, and the resulting residue was purified with a silica gel column chromatography (CHCl3:MeOH). The eluate was mixed with ether and n-hexane to give crystals of 150 mg of the title compound with yield of 31%.

reactant | DMF | 1.38 mmol, 500 mg | CN(C)C=O | C3H7NO
reactant | Boc-Phe-OSu | N([C@@H](CC1=CC=CC=C1)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C18H22N2O6
reactant | H-Ser-OH | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | Et3N | 2.76 mmol, 384 μl, 290 mg | CCN(CC)CC | C6H15N
reactant | H-Ser-OH | 2.76 mmol | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | Et3N | 2.76 mmol | CCN(CC)CC | C6H15N
product | Boc-Phe-Ser-OH | 150 mg, yield of 31% | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CO)C(=O)O)C(=O)OC(C)(C)C | C17H24N2O6
